* Z:\mnt\design.r\spice\examples\3752.asc
XU1 0 MP_01 0 MP_02 N011 Vaux Vaux Vaux N024 N044 N031 N042 NC_03 N043 N035 N012 MP_04 N026 MP_05 N025 0 LT8311
R1 N018 0 5m
L1 IN N004 50µ
L2 N001 N005 50µ
L3 N001 OUT 6.8µ
C2 OUT 0 22µ x2
R2 OUT N031 100K
R3 N031 0 11.3K
R4 N021 N019 5.9K
R5 0 N021 1.82K
V1 IN 0 30
Rload1 OUT 0 .96
C3 0 INTVcc 4.7µ
M1 N004 N017 N018 N018 BSC077N12NS3
R6 N019 IN 100K
R7 N024 N023 3.16K
R8 N022 INTVcc 100
R9 0 N030 1K
XU3 N023 0 N022 N030 PC817
C5 N031 OUT 68p
L4 0 N034 785µ
C6 N033 N034 220p
R12 N035 0 560
XU5 N008 N013 N036 N029 N028 NC_06 N027 N037 N019 N021 N039 N040 N041 N038 MP_07 MP_08 N032 0 0 0 N020 N018 MP_09 N017 MP_10 INTVcc MP_11 IN MP_12 N033 MP_13 N016 MP_14 N015 MP_15 N014 LT3752
C8 0 N027 .01µ
C9 0 N032 .01µ
R13 N036 0 31.6K
R14 N037 0 71.5K
R15 N038 0 34K
R16 N039 0 49.9K
R17 N040 0 22.6K
R18 N041 0 7.32K
R19 N020 N018 2K
M2 N005 N011 0 0 BSC082N10LS
C10 OUT 0 470µ
C11 N004 N007 15n
M4 N007 N010 0 0 Si7113DN
C12 N010 N016 100n
R20 N010 0 10K
D1 N010 0 BAT46WJ
L6 IN N006 222µ
M5 N006 N015 N009 N009 Si7802DN
R21 N009 0 .15
R22 N009 N014 499
L8 0 N002 25.66µ
D2 N002 INTVcc BAT46WJ
R23 0 N008 1.1K
R24 N008 INTVcc 10K
C13 0 N013 4.2n
L7 0 N003 25.66µ
D3 N003 Vaux BAT46WJ
C14 Vaux 0 2.2µ
L5 0 N035 785µ
C15 0 INTVcc 6.8µ
R25 N028 N029 100K
R26 N029 N030 100K
C16 N022 0 1µ
C4 Vaux 0 4.7µ
R11 0 N026 100
R27 N001 N025 100
R10 N042 0 499K
C1 N043 0 .015µ
C7 N044 0 2200p
M3 N001 N012 0 0 BSC082N10LS
D4 0 N001 MBRS1100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 6.2m startup uic
K2 L5 L4 1
K3 L6 L7 L8 1
.lib LT3752.sub
.lib LT8311.sub
.lib PC817.sub
.backanno
.end
